US09303023B2
N-(1-(3-Aminopropyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide
The title compound was synthesized according to above mentioned procedure for N-(1-(2-aminoethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide, using 3-(Boc-amino)propyl bromide. LC-MS conditions B: tR=0.56 min, [M+H]+=326.19.

reactant | N-(1-(2-aminoethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide | NCCN1N=CC(=C1)NC(=O)C=1N=COC1C=1C=C(C=CC1)C | C16H17N5O2
reactant | 3-(Boc-amino)propyl bromide | C(=O)(OC(C)(C)C)NCCCBr | C8H16BrNO2
product | N-(1-(3-Aminopropyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide | NCCCN1N=CC(=C1)NC(=O)C=1N=COC1C=1C=C(C=CC1)C | C17H19N5O2
